### PR TITLE
Measurable fun exprn

### PR DESCRIPTION
**Pull request by hoheinzollern**
@affeldt-aist and I have reworked the lemma `measurable_fun_mulrn`, now renamed to `measurable_fun_exprn`, following the suggestion by @CohenCyril to use the fact that continuous implies measurable.
This leaves us with an additional assumption that the function `f` from the lemma is continuous, which was not required before.

### CODE REVIEW

**Comment by CohenCyril** [comment]
But ... why? It's the `fun x => x ^ n` which is continuous, `f` does not have to be. Use composition.

**Comment by hoheinzollern** [comment]
Ok thanks for the suggestion, this actually fixes that.

File: theories/lebesgue_measure.v [hunk 1]
```diff
@@ -1376,6 +1347,20 @@ Proof.
...
 Qed.
 
+Lemma measurable_fun_exprn D n f :
+  measurable_fun D f -> measurable_fun D (fun x => f x ^+ n).
+Proof.
+move => mf.
+rewrite (_ : (fun x => f x ^+ n) = (fun x => x ^+ n) \o f).
+apply: measurable_fun_comp => //.
+apply: continuous_measurable_fun; apply: exp_continuous.
+by apply /funext => y.
```
Comment (CohenCyril) [inline theories/lebesgue_measure.v:1357]:
```suggestion
apply: measurable_fun_comp ((@GRing.exp R)^~ n) _ _ _.
by apply: continuous_measurable_fun; apply: exp_continuous.
```

File: theories/lebesgue_measure.v [hunk 2]
```diff
@@ -1376,6 +1347,20 @@ Proof.
...
+Qed.
+
+Lemma measurable_fun_sqr D f :
+  measurable_fun D f -> measurable_fun D (fun x => f x ^+ 2).
+Proof. by apply: measurable_fun_exprn. Qed.
```
Comment (CohenCyril) [inline theories/lebesgue_measure.v:1362]:
```suggestion
Proof. exact: measurable_fun_exprn. Qed.
```
